* source POWERSYSTEM_SIMULATIONS
R_R9         N37973 0  1.2k TC=0,0 
R_Rsc2         N37799 N37893  0.22 TC=0,0 
C_C12         0 N37931  330u  TC=0,0 
R_R8         N37973 N37931  3.6k TC=0,0 
R_R7         N49005 N37799  180 TC=0,0 
C_C10         0 N37893  100u  TC=0,0 
C_C11         N44823 0  1.5n  TC=0,0 
L_L3         N37799 N37819  170u  
C_C22         0 N37893  100n  TC=0,0 
X_U6          N37973 N49005 0 N37799 N37819 0 N44823 N37893 MC33063A-Q1_TRANS
C_C24         0 N44923  100u  TC=0,0 
C_C25         0 N44923  100n  TC=0,0 
L_L4         N37931 N44923  1uH  
R_Rlidar         N44923 0  10 TC=0,0 
D_D4         N87291 N87283 Dbreak 
V_V2         N87447 0  
+PULSE 0 3.7 0.5 500n 500n 0.25 5
R_R4         N87291 N37893  100k TC=0,0 
S_U2         N87291 0 N87619 0 _U2
.MODEL      _U2 VSWITCH Roff=1000000000 Ron=0.01 VH=0 VT=2VDC TD=0
R_R2         N87157 N87005  100k TC=0,0 
C_C2         N87157 N87005  100n  TC=0,0 
C_C1         N87283 N87157  1u  TC=0,0 
V_V1         N87005 0 3.7VDC
X_U5         N37893 N87157 N87005 ZXMD63P02X/ZTX
V_V3         N87619 0  
+PULSE 3.7 0 0.625 500n 500n 5 10
C_C3         N87311 N37893  2.2u  TC=0,0 
S_U1         N87283 0 N87447 0 _U1
.MODEL      _U1 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
R_R1         N87283 N87005  10k TC=0,0 
R_R3         N87311 N87291  300k TC=0,0 
X_U7         N87157 N87311 0 ZXMD63N02X/ZTX
D_D5         N37819 N37931 Dbreak 
** Floating/unmodeled pin fixups **
R__UC0001   N37799  0   {1/GMIN}
